US06472169B1
An alternative to increasing Kc in order to suppress quinic acid formation was addition of a non-hydrolyzable glucose analog to the fermentation broth. Methyl α-D-glucopyranoside (MαDG) was added to the fermentation medium at the time of inoculation and the fermentation was then run without further adjustment. Addition of 1 mM MαDG to the fermentation of SP1.1/pKD12.112 resulted in the synthesis of 40.3 g/L of shikimic acid (Table 3). Quinic acid was not detected. Although several concentrations were examined, 1 mM MαDG was the minimum concentration that afforded complete suppression of quinic acid formation. Addition of MαDG to SP2.1/pKD12.112 cultures also resulted in quinic acid suppression. After 48 h of culturing in the presence of 0.5 mM MαDG, SP2.1/pKD12.112 (Table 3) synthesized 39.6 g/L of shikimic acid and 4.1 g/L of quinic acid, resulting in a molar ratio 11. Higher concentrations of MαDG showed no further improvement in quinic acid suppression.

reactant | quinic acid | C1[C@@](C[C@H]([C@@H]([C@@H]1O)O)O)(O)C(=O)O | C7H12O6
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | Methyl α-D-glucopyranoside | O([C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C | C7H14O6
reactant | MαDG | 1 mM | O([C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C | C7H14O6
product | shikimic acid | C1[C@H]([C@@H]([C@@H](C=C1C(=O)O)O)O)O | C7H10O5
